US09108969B2
Step E: Preparation of Ethyl 2-(7-Methoxy-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
Ethyl 2-(7-methoxy-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-ylidene)acetate (351 mg, 1.23 mmol) was dissolved in EtOAc (6 mL) and ethanol (6 mL), 10% Palladium on carbon (120 mg) was added. The reaction was degassed and charged with hydrogen, then stirred at room temperature overnight. The solid was filtered off. The filtrate was concentrated to give the title compound (320 mg) as an oil without further purification. LCMS m/z=288.2 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.32 (t, J=7.1 Hz, 3H), 2.25-2.32 (m, 1H), 2.40 (s, 3H), 2.58 (dd, J=16.0 and 8.6 Hz, 1H), 2.80-2.95 (m, 2H), 3.73-3.80 (m, 1H), 3.85 (s, 3H), 3.95-4.02 (m, 1H), 4.06-4.18 (m, 1H), 4.18-4.26 (m, 2H), 6.11 (s, 1H), 6.84 (d, J=8.6 Hz, 1H), 7.02 (d, J=8.6 Hz, 1H).

reactant | Ethyl 2-(7-methoxy-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-ylidene)acetate | 1.23 mmol, 351 mg | COC1=C(C=2C=C3N(C2C=C1)CCC3=CC(=O)OCC)C | C17H19NO3
solvent | EtOAc | 6 mL | CCOC(=O)C | C4H8O2
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | 120 mg | [Pd] | Pd
product | Ethyl 2-(7-Methoxy-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 320 mg | COC1=C(C=2C=C3N(C2C=C1)CCC3CC(=O)OCC)C | C17H21NO3
